US03940259
Preparation of N-(1,3-Dioxolan-2-ylmethyl)-2,6-dimethylaniline
2,6-Dimethylaniline (75 grams), 2-chloromethyl-1,3-dioxolane (25 grams), potassium carbonate (34 grams) and dimethylformamide (50 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated at reflux for a period of about 18 hours. After this time the mixture was filtered and distilled to yield the desired product N-(1,3-dioxolan-2-ylmethyl)-2,6-dimethylaniline.

reactant | 2,6-Dimethylaniline | 75 grams | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | 2-chloromethyl-1,3-dioxolane | 25 grams | ClCC1OCCO1 | C4H7ClO2
reactant | potassium carbonate | 34 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(1,3-dioxolan-2-ylmethyl)-2,6-dimethylaniline | O1C(OCC1)CNC1=C(C=CC=C1C)C | C12H17NO2
